US06528510B1
3-(2-tert-Butyl-4-hydroxymethyl-5-methyl-phenylsulfanyl)-4-hydroxy-6-isopropyl-6-[2-(4-methyl-thiazol-5-yl)-ethyl]-5,6-dihydro-pyran-2-one
The title compound was prepared according to General Method 16a using 4-hydroxy-6-isopropyl-6-[2-(4-methyl-thiazol-5-yl)-ethyl]-5,6-dihydro-pyran-2-one (Example E-1; 0.22 g, 0.78 mmol), toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxymethyl-5-methyl-phenyl)ester (Example BB-2, 0.33 g, 0.90 mmol), potassium carbonate (1.0 g, 7.2 mmol), and DMF (4 mL). The product was chromatographed on silica gel, eluting with 10% MeOH in CH2Cl2, to give the title compound, mp 138-141° C.

reactant | 4-hydroxy-6-isopropyl-6-[2-(4-methyl-thiazol-5-yl)-ethyl]-5,6-dihydro-pyran-2-one | 0.78 mmol, 0.22 g | OC1=CC(OC(C1)(CCC1=C(N=CS1)C)C(C)C)=O | C14H19NO3S
reactant | toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxymethyl-5-methyl-phenyl)ester | 0.90 mmol, 0.33 g | C(C)(C)(C)C1=C(C=C(C(=C1)CO)C)SS(=O)(=O)C1=CC=C(C=C1)C | C19H24O3S2
reactant | potassium carbonate | 7.2 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 3-(2-tert-Butyl-4-hydroxymethyl-5-methyl-phenylsulfanyl)-4-hydroxy-6-isopropyl-6-[2-(4-methyl-thiazol-5-yl)-ethyl]-5,6-dihydro-pyran-2-one | C(C)(C)(C)C1=C(C=C(C(=C1)CO)C)SC=1C(OC(CC1O)(CCC1=C(N=CS1)C)C(C)C)=O | C26H35NO4S2
